simulator lang=spectre
global 0
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=bjt_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=dio_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=res_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=mim_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_oa_cds_v1.11_4/models/spectre/ms018_enhanced_v1p11_spe.lib" section=var_tt

subckt NMC VINN VINP VOUT IBIAS VDD VSS
NM7 (IBIASP IBIAS VSS VSS) n18 w=2.7e-07 l=2.2e-07 m=1 //// Bias transistor
NM6 (net021 net028 VSS VSS) n18 w=3.08e-06 l=3.6e-07 m=1 //// Load transistor, 2nd stage
NM5 (VOUT net021 VSS VSS) n18 w=1.577e-05 l=1.9e-07 m=1 //// Input transistor, load(3rd) stage
NM4 (net028 net028 VSS VSS) n18 w=2.89e-06 l=5e-07 m=1 //// Load transistor, 2nd stage
NM0 (net27 VINN net26 VSS) n18 w=9.5e-07 l=6.1e-07 m=1 //// Input transistor, 1st stage ``NM1``
NM3 (IBIAS IBIAS VSS VSS) n18 w=2.5e-07 l=1.9e-07 m=1 //// Bias transistor
NM2 (net26 IBIAS VSS VSS) n18 w=1e-06 l=1.8e-07 m=1 //// Current tail transistor, 1st stage
NM1 (net28 VINP net26 VSS) n18 w=9.5e-07 l=6.1e-07 m=1 //// Input transistor, 1st stage ``NM0``
PM5 (IBIASP IBIASP VDD VDD) p18 w=2.3e-07 l=1.9e-07 m=1 //// Bias transistor
PM4 (net021 IBIASP VDD VDD) p18 w=1.19e-06 l=1.9e-07 m=1 //// Load transistor, 2nd stage
PM3 (VOUT IBIASP VDD VDD) p18 w=1.725e-05 l=6.7e-07 m=3 //// Load transistor, load(3rd) stage
PM2 (net028 net28 VDD VDD) p18 w=1.15e-06 l=2.3e-07 m=1 //// Input transistor, 2nd stage
PM1 (net27 net27 VDD VDD) p18 w=5e-07 l=4.1e-07 m=1 //// Load transistor, 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) p18 w=5e-07 l=4.1e-07 m=1 //// Load transistor, 1st stage ``PM1``
C1 (net021 VOUT) capacitor c=9.5e-13 m=1 //// Miller cap 1
C0 (net28 VOUT) capacitor c=8.16e-13 m=1 //// Miller cap 2
ends NMC


        V0 (VSS 0) vsource dc=0 type=dc
        V1 (VDD 0) vsource dc=1.8 type=dc
        C0 (VOUT VSS) capacitor c=2e-11
        I0 (VDD IBIAS) isource dc=1e-06 type=dc
        I1 (VOUT VINP VOUT IBIAS VDD VSS) NMC
        V2 (VINP 0) vsource type=pulse val0=1.2 val1=0.6 period=2.5e-05 rise=1p fall=1p
    